US08293768B2
Synthesis of methyl 2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate
Following the procedure as described in Example 3, making variations as required to replace ethyl 2-amino-4-methylthiazole-5-carboxylate with methyl 2-aminothiazole-5-carboxylate to react with 2-chloroethyl isocyanate, the title compound was obtained as a colorless solid in 44% yield: mp 205-208° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.02 (s, 1H), 5.55 (s, 1H), 4.25-4.19 (m, 2H), 3.84 (s, 3H), 3.72-3.67 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 162.8, 162.5, 157.0, 145.1, 122.2, 52.1, 44.4, 38.1; MS (ES+) m/z 228.2 (M+1).

reactant | ethyl 2-amino-4-methylthiazole-5-carboxylate | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | methyl 2-aminothiazole-5-carboxylate | NC=1SC(=CN1)C(=O)OC | C5H6N2O2S
reactant | 2-chloroethyl isocyanate | ClCCN=C=O | C3H4ClNO
product | methyl 2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | 44% yield | O=C1N(CCN1)C=1SC(=CN1)C(=O)OC | C8H9N3O3S
